US09238640B2
To a solution of 2-[2-(2-hydroxy-ethyl)-1H-indol-5-yl]-5,7-dimethoxy-3H-quinazolin-4-one (6.20 g, 16.9 mmol) in anhydrous DMF (25 mL) was added carbon tetrabromide (6.47 g, 19.5 mmol) and triphenylphosphine (5.11 g, 19.5 mmol). The reaction mixture was stirred at 40° C. for 16 hours. DMF was removed under vacuum and water (150 mL) was added. The separated solid was filtered and mixed with ether (150 mL) and heated for 10 minutes. The solid was filtered and dried under vacuum to give 2-[2-(2-bromo-ethyl)-1H-indol-5-yl]-5,7-dimethoxy-3H-quinazolin-4-one as a white solid. Yield: 6.1 g (84%).

reactant | 2-[2-(2-hydroxy-ethyl)-1H-indol-5-yl]-5,7-dimethoxy-3H-quinazolin-4-one | 16.9 mmol, 6.20 g | OCCC=1NC2=CC=C(C=C2C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C20H19N3O4
reactant | carbon tetrabromide | 19.5 mmol, 6.47 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 19.5 mmol, 5.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-[2-(2-bromo-ethyl)-1H-indol-5-yl]-5,7-dimethoxy-3H-quinazolin-4-one | BrCCC=1NC2=CC=C(C=C2C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C20H18BrN3O3
